US04200641
To a stirred mixture of 4 parts of 5-chloro-2-ethyl-1H-benzimidazole-1-propanol and 150 parts of trichloromethane are added dropwise 9.6 parts of sulfinyl chloride. Upon completion, the whole is heated to reflux and stirring is continued for 2 hours at reflux temperature. The reaction mixture is cooled and evaporated. The residue is taken up in water and stirred with activated charcoal. The latter is filtered off and the filtrate is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated, yielding 5-chloro-1-(3-chloropropyl)-2-ethyl-1H-benzimidazole.

reactant | 5-chloro-2-ethyl-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)CC)CCCO)C=C1 | C12H15ClN2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-chloro-1-(3-chloropropyl)-2-ethyl-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)CC)CCCCl)C=C1 | C12H14Cl2N2
